US05773451
A1. 2-{[[4-(3-Chloropropylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole
One equivalent of 2-chloromethyl-4-(3-chloropropylthio)-3-methylpyridine hydrochloride (dissolved in 10 ml of water) is added dropwise to a solution of 2-mercapto-1H-benzimidazole (1.5 g/10 mmol) in 40 ml of ethanol and 21 ml of 1N sodium hydroxide solution at 40° C. in the course of 20 min. The mixture is then stirred at 50°-60° C. for 2-3 hours and at room temperature for a further 3-4 hours, the ethanol is distilled off on a rotary evaporator (1 kPa/40° C.), the residue is extracted 3 times with 20 ml of methylene chloride each time and the extract is washed with 0.1N sodium hydroxide solution, dried over potassium carbonate and evaporated to dryness in vacuo. For purification, the crude product is chromatographed over silica gel (methylene chloride 20:1 to 3:1); the pure fractions collected are evaporated together in vacuo and the residue is crystallized from methylene chloride/diisopropyl ether. It is then recrystallized from methanol/toluene. Yield: 2.67 g (74%) of the title compound as a colorless solid of melting point 112°-114° C.

reactant | 2-chloromethyl-4-(3-chloropropylthio)-3-methylpyridine hydrochloride | 10 ml, One equivalent | Cl.ClCC1=NC=CC(=C1C)SCCCCl
reactant | 2-mercapto-1H-benzimidazole | 10 mmol, 1.5 g | SC1=NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 21 ml | [OH-].[Na+]
product | 2-{[[4-(3-Chloropropylthio)-3-methyl-2-pyridinyl]methyl]thio}-1H-benzimidazole | ClCCCSC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C17H18ClN3S2
